US06716862B2
5-(4-Methoxybenzenesulfonyl)-5-(3′-(trifluoromethyl)biphen-4-ylmethyl)thiazolidine-2,4-dione
Prepared analogously to Example 9 from from 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione and 4′-bromomethyl-3-(trifluoromethyl)biphenyl in N,N-dimethylformamide. Column chromatography provided a light yellow glass. 1H NMR: δ 7.93 (dm, J=9.0 Hz, 2H), 7.78 (br s, 2H), 7.72 (d, J=7.5 Hz, 1H), 7.49-7.62 (m, 4H), 7.28 (dm, J=8.7 Hz, 2H), 7.07 (dm, J=9.0 Hz, 2H), 3.98 A of AB, J=13.7 Hz, 1H), 3.92 (s, 3H), 3.40 (B of AB, J=13.7 Hz, 1H). MS (m/e): 520.0 (M−H)−. Anal: Calc for C24H18F3NO5S2: 55.27% C, 3.48% H, 2.69% N; Found: 55.23% C, 3.70% H, 2.69% N.

reactant | 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | 4′-bromomethyl-3-(trifluoromethyl)biphenyl | BrCC1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C14H10BrF3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-Methoxybenzenesulfonyl)-5-(3′-(trifluoromethyl)biphen-4-ylmethyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1(C(NC(S1)=O)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C24H18F3NO5S2
